US07915424B2
5-(4-Fluoro-3-hydroxymethylphenylethynyl)-nicotinonitrile
Dissolve zinc (II) bromide (374 mg, 14.3 mmol) in tetrahydrofuran (30 mL) and treat with triethylamine (7.96 mL, 57.1 mmol). After 5 min add 2-fluoro -5-iodobenzyl alcohol, (prepared as described in PREPARATION 33), (3.00 g, 11.9 mmol), 5-ethynylnicotinonitrile, (prepared as described in PREPARATION 4), (1.83 g, 14.3 mmol) and tetrakis(triphenylphosphine)palladium (0) (688 mg, 0.595 mmol) to the reddish solution. Heat to 60° C. for 2 h, cool to room temperature, and filter through diatomaceous earth. Purify by silica gel chromatography, eluting with 75:25 to 60:40 hexanes:ethyl acetate, to give the title compound as a yellow crystalline solid (1.85 g, 62%).

reactant | triethylamine | 57.1 mmol, 7.96 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro -5-iodobenzyl alcohol | 11.9 mmol, 3.00 g | FC1=C(CO)C=C(C=C1)I | C7H6FIO
reactant | 5-ethynylnicotinonitrile | 14.3 mmol, 1.83 g | C(#C)C=1C=NC=C(C#N)C1 | C8H4N2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | zinc (II) bromide | 14.3 mmol, 374 mg | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.595 mmol, 688 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Fluoro-3-hydroxymethylphenylethynyl)-nicotinonitrile | 1.85 g, 62% | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)CO | C15H9FN2O
